US07323475B2
c) (S)-2-{[1-(4-Chloro-phenylsulfanyl)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid
To a solution of 250 mg of (S)-2-{[1-bromo-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid in 0.7 ml of 1-methyl-2-pryrrolidinone was added 433 mg of 4-chloro-benzenethiol. The solution was heated at 210° C. for 30 min. using a CEM Discover microwave reactor. The solution was concentrated under vacuum. The resultant residue was crystallized from methanol to yield 18 mg of a tan solid; MS (−): m/z 401.10 (M−1)

reactant | (S)-2-{[1-bromo-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid | 250 mg | BrC1=NC(=C(C2=CC=CC=C12)O)C(=O)N[C@H](C(=O)O)C | C13H11BrN2O4
reactant | 4-chloro-benzenethiol | 433 mg | ClC1=CC=C(C=C1)S | C6H5ClS
product | (S)-2-{[1-(4-Chloro-phenylsulfanyl)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid | 18 mg | ClC1=CC=C(C=C1)SC1=NC(=C(C2=CC=CC=C12)O)C(=O)N[C@H](C(=O)O)C | C19H15ClN2O4S
